US04851409
Preparation of dimethyl 5-(3-formylphenyl)-4,6-dithianonanedioate
To a solution of isophthalaldehyde (5.4 g) in CHCl3 (50 ml) and methyl 3-mercaptopropanoate (9.2 ml) was added dropwise trimethylsilylchloride (6.5 ml). The reaction mixture was stirred 1 hour at room temperature, quenched with aqueous NH4OAc (25%), and extracted with ethylacetate. Flash chromatography of the residue using 1:1 ethylacetate hexane afforded the title compound.

reactant | isophthalaldehyde | 5.4 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
reactant | trimethylsilylchloride | 6.5 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | methyl 3-mercaptopropanoate | 9.2 ml | SCCC(=O)OC | C4H8O2S
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | dimethyl 5-(3-formylphenyl)-4,6-dithianonanedioate | C(=O)C=1C=C(C=CC1)C(SCCC(=O)OC)SCCC(=O)OC | C16H20O5S2
